US05232624
0.08 mol of 5-heptyl-2-(2,3-difluoro-4-hydroxyphenyl)pyrimidine, together with 11.6 g of K2CO3 and 25.6 g of optically active 2-fluoro-1-octyl tosylate in 70 ml of methyl ethyl ketone, are refluxed for 12 hours under a protective gas atmosphere. The reaction mixture is then hydolysed [sic], and the product is then worked up in a customary manner and purified by chromatography, to give optically active 5-n-heptyl-2-[2,3-difluoro-4-(2-fluorooctyloxy)phenyl]pyrimidine of melting point 56° C.

reactant | 5-heptyl-2-(2,3-difluoro-4-hydroxyphenyl)pyrimidine | 0.08 mol | C(CCCCCC)C=1C=NC(=NC1)C1=C(C(=C(C=C1)O)F)F | C17H20F2N2O
reactant | K2CO3 | 11.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-fluoro-1-octyl tosylate | S(=O)(=O)(OCC(CCCCCC)F)C1=CC=C(C)C=C1 | C15H23FO3S
solvent | methyl ethyl ketone | 70 ml | C(C)C(=O)C | C4H8O
product | 5-n-heptyl-2-[2,3-difluoro-4-(2-fluorooctyloxy)phenyl]pyrimidine | C(CCCCCC)C=1C=NC(=NC1)C1=C(C(=C(C=C1)OCC(CCCCCC)F)F)F | C25H35F3N2O
